US06124283
(R)-N-[8-(Piperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-morpholinobenzamide
To an ice-cooled solution of (R)-N-[8-(4-tert-butyloxycarbonylpiperazin-1-yl)-1,2,3,4 tetrahydro-2-naphthyl]-4-morpholinophenylcarboxamide (1.0 g, 2 mmol) in methylene chloride (100 mL) was added trifluoroacetic acid (3 mL). The reaction was stirred at ambient temperature for 7 h. The solvent was evaporated in vacuo and the residue was dissolved in water (20 mL), alkalized with a 2 M aqueous sodium hydroxide solution and extracted, twice, with methylene chloride. The phases were separated, the combined organic phases were dried (Na2SO4), filtered and evaporated in vacuo. Purification on a silica gel column using chloroform/methanol/concentrated ammonium hydroxide (95:5:0.5) as the eluent gave 580 mg (70% yield) of the title compound as white crystals: mp 202-203° C.;

reactant | (R)-N-[8-(4-tert-butyloxycarbonylpiperazin-1-yl)-1,2,3,4 tetrahydro-2-naphthyl]-4-morpholinophenylcarboxamide | 2 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=CC=C2CC[C@H](CC12)NC(=O)C1=CC=C(C=C1)N1CCOCC1 | C30H40N4O4
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | (R)-N-[8-(Piperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-4-morpholinobenzamide | 580 mg, 70% yield | N1(CCNCC1)C=1C=CC=C2CC[C@H](CC12)NC(C1=CC=C(C=C1)N1CCOCC1)=O | C25H32N4O2
